US06787539B2
To a solution of 1.10 g (4.21 mol) methyl-(2-methylsulfanyl-4-o-tolyloxy-pyrimidin-5-yl)-amine and 1.44 ml (8.42 mmol) N-ethyldiisopropylamine in 30 ml CH2Cl2 a solution of 1.87 g (5.89 mmol) 2-(3,5-bis-trifluormethyl-phenyl)-2-methyl-propionyl chloride in 5 ml CH2Cl2 was added and the reaction mixture stirred for 12 hrs at RT. The reaction mixture was poured into 50 ml 0.5 N NaOH-solution. The phases were separated and the aqueous phase three times extracted with 80 ml CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography (SiO2, hexane/ ethyl acetate 2:1) to give 2.10 g (92%) 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-(2-methylsulfanyl-4-o-tolyloxy-pyrimidin-5-yl)-isobutyramide as a white foam, MS (ISP): 544.2 (M+H)+.

reactant | methyl-(2-methylsulfanyl-4-o-tolyloxy-pyrimidin-5-yl)-amine | 4.21 mol, 1.10 g | CNC=1C(=NC(=NC1)SC)OC1=C(C=CC=C1)C | C13H15N3OS
reactant | N-ethyldiisopropylamine | 8.42 mmol, 1.44 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(3,5-bis-trifluormethyl-phenyl)-2-methyl-propionyl chloride | 5.89 mmol, 1.87 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
reactant | NaOH | 0.5 N, 50 ml | [OH-].[Na+]
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-(2-methylsulfanyl-4-o-tolyloxy-pyrimidin-5-yl)-isobutyramide | 2.10 g, 92% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C(=NC(=NC1)SC)OC1=C(C=CC=C1)C)C)(C)C)(F)F | C25H23F6N3O2S
